US06821980B1
(E)-3-[1-[4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxymethoxy-biphenyl-2-yloxymethyl]-cyclopropyl]-acrylonitrile (350 mg; 0.698 mmol) is stirred in methanol (12 ml) and a 3 M hydrochloric acid solution in methanol (3.4 ml) for 30 minutes at a bath temperature of 60° C. The methanol is evaporated off, the residue is dissolved in water (33 ml) and the pH is adjusted to approx. 9 by addition of NH4OH conc., whereupon the substance precipitates out. After stirring for 2 hours the mixture is filtered with suction and the residue is washed with water and dried under a high vacuum. 295 mg (92%) (E)-3-[1-[4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-hydroxy-biphenyl-2-yloxymethyl]-cyclopropyl]-acrylonitrile are obtained as a colourless powder.

reactant | (E)-3-[1-[4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxymethoxy-biphenyl-2-yloxymethyl]-cyclopropyl]-acrylonitrile | 0.698 mmol, 350 mg | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C1=CC=C(C=C1)OCOC)OCC1(CC1)/C=C/C#N | C28H31N5O4
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
solvent | methanol | 3.4 ml | CO | CH4O
product | (E)-3-[1-[4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-hydroxy-biphenyl-2-yloxymethyl]-cyclopropyl]-acrylonitrile | 295 mg, 92% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C1=CC=C(C=C1)O)OCC1(CC1)/C=C/C#N | C26H27N5O3
